US08071584B2
Methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate
TMSOTf (2.1 mL, 11.8 mmol) was added dropwise over 2.25 min to a solution of tetrahydro-4H-thiopyran-4-one (0.686 g, 5.9 mmol) in DCM (75 mL) at 0° C. (bath temp). A solution of ethyl 5-bromo-1H-indole-7-carboxylate (1.5 g, 5.9 mmol) in DCM (25 mL) was added dropwise via addition funnel over 20 min. Triethylsilane (3.76 mL, 23.6 mmol) was added in one portion and the reaction was allowed to warm to room temperature over 15 h. Saturated aqueous Na2CO3 (35 mL) was added, the layers were separated and the aqueous layer was extracted with DCM (1×75 mL). The combined organic layers were concentrated under reduced pressure, the crude product was washed with MeOH (2×8 mL) and dried under high vacuum, giving 1.59 g (76%) of the title compound.

reactant | TMSOTf | 11.8 mmol, 2.1 mL | [Si](C)(C)(C)OS(=O)(=O)C(F)(F)F | C4H9F3O3SSi
reactant | tetrahydro-4H-thiopyran-4-one | 5.9 mmol, 0.686 g | S1CCC(CC1)=O | C5H8OS
reactant | ethyl 5-bromo-1H-indole-7-carboxylate | 5.9 mmol, 1.5 g | BrC=1C=C2C=CNC2=C(C1)C(=O)OCC | C11H10BrNO2
reactant | Triethylsilane | 23.6 mmol, 3.76 mL | C(C)[SiH](CC)CC | C6H16Si
reactant | Na2CO3 | 35 mL | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DCM | 75 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | Methyl 5-bromo-3-(tetrahydro-2H-thiopyran-4-yl)-1H-indole-7-carboxylate | 1.59 g, 76% | BrC=1C=C2C(=CNC2=C(C1)C(=O)OC)C1CCSCC1 | C15H16BrNO2S
